US08802659B2
To [6-(Spiro[5.5]undec-3-yloxy)-naphthalen-2-yl]-methanol (150 mg, 0.46 mmol) in methylene chloride (5 mL, 80 mmol) was added Dess-Martin periodinane (0.274 g, 0.647 mmol) and the resulting solution was stirred at room temperature for 1 hour. The crude reaction was then passed through a silica gel plug, the filtrate was removed under vacuum to give 6-(spiro[5.5]undecan-3-yloxy)-2-naphthaldehyde as a colorless solid. (0.150 g, 100%). 1H NMR (400 MHz, CDCl3) δ 10.09 (s, 1H), 8.25 (s, 1H), 7.92-7.89 (m, 2H), 7.78 (d, J=8.7 Hz, 1H), 7.24-7.19 (m, 2H), 4.48 (m, 1H), 1.96-1.29 (m, 18H).

reactant | [6-(Spiro[5.5]undec-3-yloxy)-naphthalen-2-yl]-methanol | 0.46 mmol, 150 mg | C1CC(CCC12CCCCC2)OC=2C=C1C=CC(=CC1=CC2)CO | C22H28O2
reactant | methylene chloride | 80 mmol, 5 mL | C(Cl)Cl | CH2Cl2
reactant | Dess-Martin periodinane | 0.647 mmol, 0.274 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
product | 6-(spiro[5.5]undecan-3-yloxy)-2-naphthaldehyde | C1CC(CCC12CCCCC2)OC=2C=C1C=CC(=CC1=CC2)C=O | C22H26O2
